US04427677
A solution of hydrazine hydrate (2.3 g) in methanol (2.3 g) was added to a mixture of N-(methylthiomethoxy) phthalimide (10.2 g) in tetrahydrofuran (30 ml) and stirred at ambient temperature for 30 minutes. 10% Hydrochloric acid (18 ml) was added to the reaction mixture under ice-cooling and the insoluble materials were filtered off to give a solution containing methylthiomethoxyamine. On the other hand, ethyl (2-formamido-5-chlorothiazol-4-yl)glyoxylate (10 g) was added to the 1 N aqueous potassium hydroxide (76.2 ml) at ambient temperature and the mixture was stirred for 10 minutes. The reaction mixture was adjusted to pH 2.0 with 10% hydrochloric acid under ice-cooling, thereto were added pyridine (10 g) and the above solution containing methylthiomethoxyamine, followed by stirring at ambient temperature for 3 hours. The aqueous solution was adjusted to pH 7.5 with 10% aqueous potassium hydroxide and washed with ethyl acetate. Ethyl acetate was added to the aqueous solution and the resulting mixture was adjusted to pH 1.7 with 10% hydrochloric acid, and the separated organic layer was washed with 3% hydrochloric acid and water, dried over magnesium sulfate and evaporated to give 2-methylthiomethoxyimino-2-(2-formamido-5-chlorothiazol-4-yl)acetic acid (syn isomer)(8.1 g).

reactant | hydrazine hydrate | 2.3 g | O.NN
reactant | N-(methylthiomethoxy) phthalimide | 10.2 g | CSCON1C(C=2C(C1=O)=CC=CC2)=O | C10H9NO3S
reactant | Hydrochloric acid | 18 ml | Cl | ClH
reactant | methylthiomethoxyamine | CSCON | C2H7NOS
reactant | ethyl (2-formamido-5-chlorothiazol-4-yl)glyoxylate | 10 g | C(=O)NC=1SC(=C(N1)C(C(=O)OCC)=O)Cl | C8H7ClN2O4S
reactant | potassium hydroxide | 1 N, 76.2 ml | [OH-].[K+]
solvent | methanol | 2.3 g | CO | CH4O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | pyridine | 10 g | N1=CC=CC=C1 | C5H5N
product | 2-methylthiomethoxyimino-2-(2-formamido-5-chlorothiazol-4-yl)acetic acid | 8.1 g | CSCON=C(C(=O)O)C=1N=C(SC1Cl)NC=O | C8H8ClN3O4S2
